US07658979B2
Synthesis of 4-hydroxy-benzoic acid 4-pentyl-phenyl ester
15.6 g (41.5 mmol) of 4-benzyloxy-benzoic acid 4-pentyl-phenyl ester, 25 mL of cyclohexane and 0.78 g of palladium hydroxide/carbon were added to 100 mL of dehydrated ethanol and refluxed for 10 hours in the presence of argon. The resulting reaction mixture was filtered and the filtrate was concentrated. The residue was recrystallized from toluene to obtain 11.0 g of a white solid.

reactant | 4-benzyloxy-benzoic acid 4-pentyl-phenyl ester | 41.5 mmol, 15.6 g | C(CCCC)C1=CC=C(C=C1)OC(C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C25H26O3
reactant | cyclohexane | 25 mL | C1CCCCC1 | C6H12
catalyst | palladium hydroxide/carbon | 0.78 g | [OH-].[OH-].[Pd+2]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 4-hydroxy-benzoic acid 4-pentyl-phenyl ester | 11.0 g | C(CCCC)C1=CC=C(C=C1)OC(C1=CC=C(C=C1)O)=O | C18H20O3
